US07795444B2
Preparation of (S)—N-[1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl]-4-oxo-4-phenylbutanamide (18):
3-Benzoylpropionic acid (0.250 g) is dissolved in CH2Cl2 (5 mL), N-methyl imidazole (0.333 mL) is added and the resulting solution is cooled to 0° C. after which a solution of p-toluenesulfonyl chloride (0.320 g) in CH2Cl2 (2 mL) is added dropwise. After 0.5 hours (S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethanamine, 3, (0.388 g) is added. The reaction is stirred for 18 hours at room temperature and then concentrated in vacuo. The resulting residue is dissolved in EtOAc and washed with 1N HCl and brine. The solution is dried over Na2SO4, filtered, and concentrated and the crude material purified over silica to afford 0.415 g of the desired product.

reactant | 3-Benzoylpropionic acid | 0.250 g | C(C1=CC=CC=C1)(=O)CCC(=O)O | C10H10O3
reactant | N-methyl imidazole | 0.333 mL | CN1C=NC=C1 | C4H6N2
reactant | p-toluenesulfonyl chloride | 0.320 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (S)-1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethanamine | C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N | C13H15N3O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-[1-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl]-4-oxo-4-phenylbutanamide | 0.415 g | C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(CCC(C1=CC=CC=C1)=O)=O | C23H23N3O4S
